US04472305
Condensation of BocPro-DPhe-PheNHNH2 (2.09 g.) and HDPhe-Leu-MetNH2 hydrochloride salt (1.78 g.) by the acyl azide method (Yajima et al., Chem. Pharm. Bull., vol. 19, p. 1900, 1971) gave BocPro-DPhe-Phe-DPhe-Leu-MetNH2 in 91% yield. De-t-butoxycarbonylation of BocPro-DPhe-Phe-DPhe-Leu-MetNH2 (2.32 g.) using hydrogen chloride in ethyl acetate gave HPro-DPhe-Phe-DPhe-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:1) salt dihydrate in 44% yield.

reactant | BocPro-DPhe-PheNHNH2 | 2.09 g | N1([C@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)NN)CCC1)C(=O)OC(C)(C)C | C28H37N5O5
reactant | HDPhe-Leu-MetNH2 hydrochloride | 1.78 g | N[C@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N.Cl
product | BocPro-DPhe-Phe-DPhe-Leu-MetNH2 | 91% yield | N1([C@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)CCC1)C(=O)OC(C)(C)C | C48H65N7O8S
